US04496551
Preparation of Chloro(chloromethyl)[bis(4-fluorophenyl)]silane
A suspension of 7.0 g (0.288 mol) of magnesium turnings in 50 ml of ether was stirred under nitrogen while a solution of 50.2 g (0.287 mol) of 4-bromofluorobenzene in 200 ml of ether was added dropwise at a rate that maintained gentle reflux. After another 2 hours at reflux, the mixture was chilled in ice and a solution of 12.0 ml (0.096 mol) of chloromethyltrichlorosilane in 30 ml of ether was added dropwise. The resulting mixture was refluxed for 4 hours, chilled in ice, treated with a solution of 7.5 ml of isopropanol in 20 ml of ether, stirred 5 minutes, and filtered. The filtrate was evaporated to leave a viscous oil that was stirred with hexanes to give a slurry. Filtration under nitrogen and evaporation of the filtrate left a mobile oil that was distilled to give 17.6 g (61%) of the title compound: bp 100°-140° (0.1 mm); nmr (CDCl3) 3.3 (2H, s), 7.1 (4H, t), 7.7 (4H, d of d).

reactant | magnesium | 0.288 mol, 7.0 g | [Mg] | Mg
reactant | 4-bromofluorobenzene | 0.287 mol, 50.2 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | chloromethyltrichlorosilane | 0.096 mol, 12.0 ml | ClC[Si](Cl)(Cl)Cl | CH2Cl4Si
reactant | isopropanol | 7.5 ml | C(C)(C)O | C3H8O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | Chloro(chloromethyl)[bis(4-fluorophenyl)]silane | 17.6 g, 61% | Cl[Si](C1=CC=C(C=C1)F)(C1=CC=C(C=C1)F)CCl | C13H10Cl2F2Si
